US05864039
4-Amino-N-(1-(5-aminopentyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide (1.0 g) as starting compound, 37% formalin (0.45 ml) and sodium cyanoborohydride (0.34 g) were reacted and treated in the same manner as in Example 136 to give 0.48 g of 4-amino-5-chloro-N-((1-(5-dimethylaminopentyl)piperidin-4-yl)methyl)-2-methoxybenzamide.

reactant | 4-Amino-N-(1-(5-aminopentyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide | 1.0 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCN)C=C1Cl)OC | C19H31ClN4O2
reactant | formalin | 0.45 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 0.34 g | C(#N)[BH3-].[Na+]
product | 4-amino-5-chloro-N-((1-(5-dimethylaminopentyl)piperidin-4-yl)methyl)-2-methoxybenzamide | 0.48 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCN(C)C)C=C1Cl)OC | C21H35ClN4O2
